US06093737
4-[3-(2-Oxo-1-pyrimidin-2-yl-1,2-dihydro-pyridin-4-ylmethyl)-3H-imidazol-4-ylmethyl]-benzonitrile was prepared in a manner substantially similar to the procedure described above for 4-[3-(2-oxo-1-phenyl-1,2-dihydropyridin-4-ylmethyl)-3H-imidazol-4-ylmethyl]benzonitrile, hydrochloride, but substituting 2-chloropyrimidine for the iodobenzene in Step 3.

reactant | 4-[3-(2-oxo-1-phenyl-1,2-dihydropyridin-4-ylmethyl)-3H-imidazol-4-ylmethyl]benzonitrile, hydrochloride | Cl.O=C1N(C=CC(=C1)CN1C=NC=C1CC1=CC=C(C#N)C=C1)C1=CC=CC=C1
reactant | 2-chloropyrimidine | ClC1=NC=CC=N1 | C4H3ClN2
reactant | iodobenzene | IC1=CC=CC=C1 | C6H5I
product | 4-[3-(2-Oxo-1-pyrimidin-2-yl-1,2-dihydro-pyridin-4-ylmethyl)-3H-imidazol-4-ylmethyl]-benzonitrile | O=C1N(C=CC(=C1)CN1C=NC=C1CC1=CC=C(C#N)C=C1)C1=NC=CC=N1 | C21H16N6O
